US09108956B2
Step 2. Synthesis of 2-(5-(4′-((5-cyclobutyl-1,3,4-oxadiazol-2-yl)amino)-[1,1′-biphenyl]-4-yl)tetrahydro-2H-pyran-2-yl)acetic acid
Benzyl 2-(5-(4′-((5-cyclobutyl-1,3,4-oxadiazol-2-yl)amino)-[1,1′-biphenyl]-4-yl)tetrahydro-2H-pyran-2-yl)acetate was dissolved in EtOAc and hydrogenated with 10% Pd(OH)2/C under H2 balloon for 1 hr. The reaction mixture was filtered off to remove the catalyst and the filtrate was concentrated. The residue was purified by reverse HPLC (10 to 50% ACN-water (0.1% NH4OH) with X-bridge C8 column) to give the title compound 19.8 mg. HR/MS [M+H]+: found 434.2060, calc. 434.2080. RT: 2.61 (Condition L). The ratio of cis to trans was determined to be ˜1.1:1 by NMR studies. cis-isomer: 1H NMR (400 MHz, DMSO-d6) δ ppm 1.33-1.47 (m, 1H), 1.51-1.62 (m, 1H), 1.86-2.13 (m, 4H), 2.27-2.46 (m, 6H), 2.83 (t, J=3.79 Hz, 1H), 3.62-3.79 (m, 2H), 3.81-3.94 (m, 1H), 4.02 (dd, J=11.62, 3.28 Hz, 1H), 7.48 (d, J=8.34 Hz, 2H), 7.53-7.68 (m, 6H), 10.50 (br. s., 1H). trans-isomer 1H NMR (400 MHz, DMSO-d6) δ ppm 1.31-1.47 (m, 1H), 1.73-2.13 (m, 5H), 2.24-2.46 (m, 6H), 2.75 (ddd, J=11.37, 7.45, 4.17 Hz, 1H), 3.35-3.44 (m, 1H), 3.62-3.79 (m, 2H), 3.81-3.94 (m, 1H), 7.32 (d, J=8.34 Hz, 2H), 7.53-7.68 (m, 6H), 10.50 (br. s., 1H).

reactant | Benzyl 2-(5-(4′-((5-cyclobutyl-1,3,4-oxadiazol-2-yl)amino)-[1,1′-biphenyl]-4-yl)tetrahydro-2H-pyran-2-yl)acetate | C1(CCC1)C1=NN=C(O1)NC1=CC=C(C=C1)C1=CC=C(C=C1)C1CCC(OC1)CC(=O)OCC1=CC=CC=C1 | C32H33N3O4
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Pd(OH)2/C | [OH-].[OH-].[Pd+2]
product | 2-(5-(4′-((5-cyclobutyl-1,3,4-oxadiazol-2-yl)amino)-[1,1′-biphenyl]-4-yl)tetrahydro-2H-pyran-2-yl)acetic acid | 19.8 mg | C1(CCC1)C1=NN=C(O1)NC1=CC=C(C=C1)C1=CC=C(C=C1)C1CCC(OC1)CC(=O)O | C25H27N3O4
